US07091363B2
Methyl (2S, 4S)-4-acetylthio-1-methyl-2-pyrrolidinecarboxylate (Step C4)
Potassium thioacetate (677 mg) was added to a solution of methyl (2S,4R)-4-methylsulfonyloxy-1-methyl-2-pyrrolidinecarboxylate (609 mg) obtained from Reference example 4 in ethanol/water (9:1) (6 ml), and the resulting mixture was stirred at 80° C. for 3 hours, and then the mixture was allowed to stand overnight at the same temperature. Ethyl acetate (20 mL) and 10% aqueous sodium chloride solution (10 mL) were added to the reaction mixture, which was then extracted. The organic layer was separated from the aqueous layer, which was washed with water (10 mL). The solvent of the organic layer was removed by distillation under reduced pressure to give the title compound (543 mg, yield 97%).

reactant | Potassium thioacetate | 677 mg | C(C)(=S)[O-].[K+]
reactant | methyl (2S,4R)-4-methylsulfonyloxy-1-methyl-2-pyrrolidinecarboxylate | 609 mg | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C)C(=O)OC | C8H15NO5S
reactant | Ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
reactant | sodium chloride | 10 mL | [Cl-].[Na+]
solvent | ethanol water | 6 ml | C(C)O.O
product | Methyl (2S, 4S)-4-acetylthio-1-methyl-2-pyrrolidinecarboxylate | 543 mg, yield 97% | C(C)(=O)S[C@H]1C[C@H](N(C1)C)C(=O)OC | C9H15NO3S
